US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1.49 g) is alkylated using (3-bromo-propoxymethyl)-benzene (1,36 g; 5.95 mmol) and K2CO3 (2.07 g; 15.0 mmol) at RT for 16 h. After aqueous work-up the crude material is de-acetylated in hydrochloric acid (6 N, 60 ml) at reflux. After aqueous work-up 5-amino-1-(3-benzyloxy-propyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (2.1 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.49 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | (3-bromo-propoxymethyl)-benzene | 5.95 mmol, 1,36 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | K2CO3 | 15.0 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | hydrochloric acid | 6 N, 60 ml | Cl | ClH
product | 5-amino-1-(3-benzyloxy-propyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 2.1 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCCOCC1=CC=CC=C1)=O)(C)C | C20H23N3O4
